US07795267B2
α,α-Bis(phenylmethyl)-2-piperazinemethanol
α,α,1,4-Tetrakis(phenylmethyl)-2-piperazinemethanol (4.9 g, 10 mmol) was dissolved in ethanol/water (100 mL/5 mL). 10% Palladium carbon (0.49 g) was added thereto, and the mixture was stirred under hydrogen pressure (3.0 bar) at room temperature one whole day and night. The reaction system was filtered through a Celite, the Celite was washed with ethanol, and then the filtrate was concentrated under reduced pressure. The resulting crystals were washed with diethyl ether to obtain the title compound (2.8 g, yield 91%).

reactant | α,α,1,4-Tetrakis(phenylmethyl)-2-piperazinemethanol | 10 mmol, 4.9 g | C1(=CC=CC=C1)CC(O)(C1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C33H36N2O
solvent | ethanol water | 100 mL | C(C)O.O
catalyst | Palladium carbon | 0.49 g | [C].[Pd]
product | α,α-Bis(phenylmethyl)-2-piperazinemethanol | 2.8 g, yield 91% | C1(=CC=CC=C1)CC(O)(C1NCCNC1)CC1=CC=CC=C1 | C19H24N2O
